US08440689B2
B. tert-Butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
A 50 mL, 2-neck round bottom flask was charged with tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (520 mg, 1.042 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (282 mg, 1.355 mmol), potassium carbonate (504 mg, 3.65 mmol), and DMA (3 mL). The reaction flask was degassed followed by addition of 1,1-bis(di-tert-butylphosphino)ferrocene palladium chloride (21 mg, 0.032 mmol). Under N2 atmosphere, the reaction mixture was heated in an oil bath at 80° C. for 2.5 h and then allowed to cool to RT. In a separate 50 mL recovery flask was added de-ionized H2O (12 mL) and the vessel was cooled in an ice/water bath. When the internal temperature of the water reached 2° C., the reaction mixture was transferred to the recovery flask at a rate which kept the internal temperature below 10° C. Following the addition, the reaction vessel was rinsed with DMA (1 mL). The rinse was added to the recovery flask and the resulting aqueous slurry was stirred in an ice bath for 10 min and was then allowed to warm to RT with stirring. When the internal temperature reached 22° C., the mixture was filtered. The filter cake was rinsed with de-ionized H2O (2×5 mL) and air-dried under suction. The solids were re-suspended in glacial acetic acid (3 mL) and stirred at RT for 1 h. Isopropanol (1 mL) was added and the mixture was stirred at RT. De-ionized water (3.4 mL) was added to induce crystallization. Precipitation occurred, but some solids were sticky, so the mixture was heated in a 40° C. oil bath, with stirring, for 20 min. The mixture was allowed to cool to RT with stirring and then filtered. The filter cake was rinsed with a 3:3:1 mixture of HOAc/H2O/IPA (2.1 mL), briefly air-dried under suction, and then dried in a vacuum oven at 60° C. to give the title compound as a tan solid (352 mg, 62%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.35 (s, 9H), 1.53 (s, 9H), 1.65 (m, 3H), 1.76 (m, 3H), 3.94 (s, 3H), 4.03 (br s, 1H), 4.38 (br s, 1H), 4.67 (s, 2H), 5.12 (br s, 1H), 5.77 (br s, 1H), 8.25 (br s, 1H), 8.96 (br s, 1H). [M+H] calc'd for C27H37FN6O5, 545. found, 545.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 1.042 mmol, 520 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.355 mmol, 282 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium carbonate | 3.65 mmol, 504 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
solvent | H2O | 12 mL | O | H2O
product | tert-Butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 352 mg, 62% | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C=1C=NN(C1)C)C(N(C2)C(=O)OC(C)(C)C)=O)F | C27H37FN6O5
